US05565479
0.06 g of sodium hydride (60%) was added to a solution of 0.10 g of imidazole in tetrahydrofuran (30 ml). After 30 minutes of stirring at room temperature, a solution of 2-bromomethylnaphtho[1,2-d]thiazole in tetrahydrofuran (10 ml) was added to the solution. After stirring at room temperature for 1 hour and evaporation of the solvent, the residue was partitioned between 1N hydrochloric acid and ethyl acetate. The organic layer was extracted with 1N hydrochloric acid. The combined aqueous layer was neutralized with sodium bicarbonate and then extracted with chloroform. After drying over anhydrous magnesium sulfate, the solvent was evaporated to obtain 0.27 g (100%) of 2-(1-imidazolylmethyl)naphtho[1,2-d]thiazole. This free base was dissolved in methanol and mixed with 0.10 g of fumaric acid to effect crystallization to give 0.32 g of fumarate.

reactant | sodium hydride | 0.06 g | [H-].[Na+]
reactant | imidazole | 0.10 g | N1C=NC=C1 | C3H4N2
reactant | 2-bromomethylnaphtho[1,2-d]thiazole | BrCC=1SC2=C(N1)C1=CC=CC=C1C=C2 | C12H8BrNS
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(1-imidazolylmethyl)naphtho[1,2-d]thiazole | 0.27 g, 100% | N1C(=NC=C1)CC=1SC2=C(N1)C1=CC=CC=C1C=C2 | C15H11N3S
